US09332754B2
Production of 6-bromohexyl-[2,4-dimethyl-5-(2,2,2-trifluoroethylthio)phenyl]ether (present compound No. A-0284)
To 60 ml of acetonitrile were added 1.14 g (4.83 mmol) of 2,4-dimethyl-5-(2,2,2-trifluoroethylthio)phenol, 4.71 g (19.31 mmol) of 1,6-dibromohexane, 0.73 g (5.28 mmol) of potassium carbonate and catalytic amount of tetra-n-butylammonium bromide. The mixture was refluxed for 3 hours under heating. The mixture was allowed to cool to room temperature, and insoluble matters were removed by filtration. Then the solvent of filtrate was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent: a mixed solvent of n-hexane:ethyl acetate=40:1˜20:1), to obtain 1.87 g (yield: 97%) of an intended product.

reactant | acetonitrile | 60 ml | C(C)#N | C2H3N
reactant | 2,4-dimethyl-5-(2,2,2-trifluoroethylthio)phenol | 4.83 mmol, 1.14 g | CC1=C(C=C(C(=C1)C)SCC(F)(F)F)O | C10H11F3OS
reactant | 1,6-dibromohexane | 19.31 mmol, 4.71 g | BrCCCCCCBr | C6H12Br2
reactant | potassium carbonate | 5.28 mmol, 0.73 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetra-n-butylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 6-bromohexyl-[2,4-dimethyl-5-(2,2,2-trifluoroethylthio)phenyl]ether | 1.87 g, yield: 97% | BrCCCCCCOC1=C(C=C(C(=C1)SCC(F)(F)F)C)C | C16H22BrF3OS
